US06998412B2
Diethyl [4-(tetrahydro-2H-pyran-2-yloxy)-(Z)-2-butenyl]malonate
2-[4-Chloro-(Z)-2-butenyloxy]tetrahydro-2H-pyran (100 g) was dissolved in 2000 ml of dry tetrahydrofuran/600 ml of dry N,N-dimethylformamide. To the solution was added 100 g of diethyl malonate, and then 25 g of 60% sodium hydride with stirring under ice-cooling, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ice-cold water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=9:1) to provide 65.5 g of the objective compound as oil.

reactant | 2-[4-Chloro-(Z)-2-butenyloxy]tetrahydro-2H-pyran | 100 g | ClC\C=C/COC1OCCCC1 | C9H15ClO2
reactant | diethyl malonate | 100 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 25 g | [H-].[Na+]
solvent | tetrahydrofuran | 2000 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Diethyl [4-(tetrahydro-2H-pyran-2-yloxy)-(Z)-2-butenyl]malonate | 65.5 g | O1C(CCCC1)OC\C=C/CC(C(=O)OCC)C(=O)OCC | C16H26O6
